US06825191B2
Synthesis of 1-(4-bromobenzyl)-4-(4-chlorobenzoyl)-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on
20 mg (0.067 mmol) of 4-(4-chlorobenzoyl)-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on was dissolved in 5 ml of DMF. 3 mg (0.8 mmol) of sodium hydride was added to the obtained solution, and they were stirred at room temperature for 30 minutes. 20 mg (0.08 mmol) of 4-bromobenzyl bromide was added to the obtained mixture and they were stirred at 60° C. overnight. The reaction mixture was treated with ethyl acetate as the extracting solvent by an ordinary method to obtain the crude product. After the purification by the silica gel column chromatography, the title compound was obtained.

reactant | 4-(4-chlorobenzoyl)-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on | 0.067 mmol, 20 mg | ClC1=CC=C(C(=O)N2CC(NC3=C(C2)C=CC=C3)=O)C=C1 | C16H13ClN2O2
reactant | sodium hydride | 0.8 mmol, 3 mg | [H-].[Na+]
reactant | 4-bromobenzyl bromide | 0.08 mmol, 20 mg | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-(4-bromobenzyl)-4-(4-chlorobenzoyl)-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on | BrC1=CC=C(CN2C(CN(CC3=C2C=CC=C3)C(C3=CC=C(C=C3)Cl)=O)=O)C=C1 | C23H18BrClN2O2
